US05446059
a) Methyl 3-(1-adamantyl)-4-(benzyloxy)benzoate
57 g (200 mM) of methyl 3-(1-adamantyl)-4-hydroxybenzoate are treated with benzyl bromide under the conditions described in Example 5(a) to lead to 69.5 g (92.4%) of the expected derivative, of melting point 127° C.

reactant | methyl 3-(1-adamantyl)-4-hydroxybenzoate | 200 mM, 57 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2O | C18H22O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | Methyl 3-(1-adamantyl)-4-(benzyloxy)benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2OCC2=CC=CC=C2 | C25H28O3
